US07557213B2
Preparation of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(4-methoxy-3-methyl-benzoyl)-1H-[1,8]naphthyridin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60, from 55 mg (0.136 mmol) of 1-(6-Bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid methoxy-methyl-amide, and 0.5 ml (0.285 mmol) of 4-methoxy-3-methylphenyl magnesium chloride, to give desired compound as a white solid. LCMS (M+H)+: 464.

reactant | 1-(6-Bromo-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid methoxy-methyl-amide | 0.136 mmol, 55 mg | CON(C(=O)C1=CN(C2=NC=CC=C2C1=O)CC1=NC(=CC=C1)Br)C | C17H15BrN4O3
reactant | 4-methoxy-3-methylphenyl magnesium chloride | 0.285 mmol, 0.5 ml | COC1=C(C=C(C=C1)[Mg]Cl)C
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(4-methoxy-3-methyl-benzoyl)-1H-[1,8]naphthyridin-4-one | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CN=C12)=O)C(C1=CC(=C(C=C1)OC)C)=O | C23H18BrN3O3
